US07816371B2
e. (R)-N-(6-Chloro-2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamide
A round bottom flask was charged with (R)-2-(6-chloro-5-(2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate (250 mg, 0.00050 mol), potassium carbonate (100 mg, 0.00075 mol) and methanol (8 mL, 0.2 mol) and 2 drops of water. The reaction was stirred at room temperature for 30 minutes. The reaction mixture was filtered, washed with methanol. The solvent was removed and the residue purified by preparative HPLC (reverse phase) to obtain the product as an off white solid (about 150 mg). MS m/z=457.4 (M+1). 1H NMR (400 MHz; DMSO) δ 10.17 (s, 1H), 8.16 (d, J=8.85 Hz, 1H), 7.82 (d, J=7.76 Hz, 1H), 7.72-7.74 (m, 1H), 7.59 (d, J=8.84 Hz, 1H), 7.54-7.49 (m, 2H), 6.42 (d, J=7.50 Hz, 1H), 5.03-4.93 (m, 2H), 3.90 (s, 2H), 3.66-3.56 (m, 2H), 1.28 (d, J=7.63 Hz, 3H).

reactant | (R)-2-(6-chloro-5-(2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamido)-1-oxoisoquinolin-2(1H)-yl)propyl acetate | 0.00050 mol, 250 mg | C(C)(=O)OC[C@@H](C)N1C(C2=CC=C(C(=C2C=C1)NC(CC1=CC(=C(C=C1)F)C(F)(F)F)=O)Cl)=O | C23H19ClF4N2O4
reactant | potassium carbonate | 0.00075 mol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 0.2 mol, 8 mL | CO | CH4O
catalyst | water | 2 drops | O | H2O
product | (R)-N-(6-Chloro-2-(1-hydroxypropan-2-yl)-1-oxo-1,2-dihydroisoquinolin-5-yl)-2-(4-fluoro-3-(trifluoromethyl)phenyl)acetamide | about 150 mg | ClC=1C(=C2C=CN(C(C2=CC1)=O)[C@@H](CO)C)NC(CC1=CC(=C(C=C1)F)C(F)(F)F)=O | C21H17ClF4N2O3
